US09371280B2
In a manner similar to the method described in Example 7, chiral 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (100.2 mg, 0.163 mmol) was reacted with N,N′-carbonyldiimidazole (Aldrich, 69.5 mg, 0.416 mmol) and then, a mixture of 2-(hydroxymethyl)-1,3-propanediol (Aldrich, 91.8 mg, 0.839 mmol) and sodium hydride (41.6 mg, 1.65 mmol) in tetrahydrofuran to give chiral 3-hydroxy-2-(hydroxymethyl)propyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate as a white lyophilized solid (57.5 mg, 50% yield). MS (ES+) m/z calcd. for C35H38Cl2F2N3O6: [(M+H)+]: 704. found: 704.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 0.163 mmol, 100.2 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-(hydroxymethyl)-1,3-propanediol | 0.839 mmol, 91.8 mg | OCC(CO)CO | C4H10O3
reactant | sodium hydride | 1.65 mmol, 41.6 mg | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-hydroxy-2-(hydroxymethyl)propyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | 57.5 mg, 50% yield | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCC(CO)CO)C=C1)OC)F | C35H37Cl2F2N3O6
